US06162915
3. Preparation of 2-Chlorosulfonyl-8-fluoro-5-methoxy-[1,2,4]triazolo[1,5-c]pyrimidine
A mixture of 23.0 g (48 mmol) of 82.3 percent purity 2,2'-dithiobis(8-fluoro-5-methoxy[1,2,4]triazolo-[1,5-c]pyrimidine) containing 9 mmol of 8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-thiol, 142 g of dichloromethane, 78.2 g of water, and 0.13 g (4 mmol) of 75 percent purity methyltributylammonium chloride was placed in a 250 mL flask equiped with a magnetic stirrer, a gas inlet with a polytetrafluoroethylene pipe extending below the surface of the liquid, a dry-ice cooled condenser, and a cooling jacket connected to a 21° C. recirculating bath. Chlorine gas (24.5 g, 370 mmol) was added over a 5-hour period with stirring and cooling at which time the solids present completely dissolved and the solution became greenish yellow. Ten grams (32 mmol) of 27 percent aqueous sodium bisulfite solution (10 g) were added and when the chlorine color disappeared, the phases were separated. The organic phase was concentrated by evaporation under reduced pressure ending at 55° C. under 40 millimeters Hg (5.3 kilopascals) pressure to obtain 28.3 g (94.4 percent of theory) of the title compound as a 92.5 percent purity white solid. The compound obtained was shown to be the same as that disclosed in U.S. Pat. No. 5,488,109.

reactant | 2,2'-dithiobis(8-fluoro-5-methoxy[1,2,4]triazolo-[1,5-c]pyrimidine) | 9 mmol | FC=1C=2N(C(=NC1)OC)N=C(N2)SSC2=NN1C(=NC=C(C1=N2)F)OC | C12H8F2N8O2S2
reactant | 8-fluoro-5-methoxy[1,2,4]triazolo[1,5-c]pyrimidine-2-thiol | FC=1C=2N(C(=NC1)OC)N=C(N2)S | C6H5FN4OS
reactant | polytetrafluoroethylene | FC(C(F)(F)[*:1])(F)[*:2]
reactant | Chlorine | 370 mmol, 24.5 g | ClCl | Cl2
reactant | sodium bisulfite | 32 mmol, Ten grams | S([O-])(O)=O.[Na+]
catalyst | methyltributylammonium chloride | [Cl-].C[N+](CCCC)(CCCC)CCCC
solvent | water | 78.2 g | O | H2O
solvent | dichloromethane | 142 g | ClCCl | CH2Cl2
product | 2-Chlorosulfonyl-8-fluoro-5-methoxy-[1,2,4]triazolo[1,5-c]pyrimidine | ClS(=O)(=O)C1=NN2C(=NC=C(C2=N1)F)OC | C6H4ClFN4O3S
